US04430339
110.4 g of 2-(3-cyclohexylpropyloxy)-ethanol, 2 ml of pyridine and 112 ml of thionyl chloride are boiled under reflux for 30 minutes. The reaction mixture is allowed to cool and is then poured onto 500 g of ice. The mixture is extracted with twice 500 ml of methylene chloride. The combined organic phases are washed with water, with sodium hydrogen carbonate solution, with water again and are then concentrated. The residue is distilled. 119.6 g of 2-(3-cyclohexylpropyloxy)-ethyl chloride are obtained [bp 68°-69° C. at 0.01 mm Hg (1.3 Pa)].

reactant | 2-(3-cyclohexylpropyloxy)-ethanol | 110.4 g | C1(CCCCC1)CCCOCCO | C11H22O2
reactant | thionyl chloride | 112 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-cyclohexylpropyloxy)-ethyl chloride | 119.6 g | C1(CCCCC1)CCCOCCCl | C11H21ClO
